### PR TITLE
feat: categorical description of center of a ring

### PR DESCRIPTION
**Pull request by jjaassoonn**
We show the isomorphism between `Z(R)` and `End(1 Mod-R)`

---

- [x] depends on:#20721

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Category/Ring/Center.lean [hunk 1]
```diff
@@ -0,0 +1,138 @@
...
+      LinearMap.coe_comp, LinearMap.coe_mk, AddHom.coe_mk, Function.comp_apply,
+      one_smul] at this
+    exact this.symm
+
+/--
+For any two commutative rings `R` and `S`, if the categories of `R`-modules and `S`-modules are
+equivalent, then `R` and `S` are isomorphic as rings.
+-/
+def RingEquiv.ofModuleCatEquiv {R : Type u} {S : Type u'} [CommRing R] [CommRing S]
+    (e : ModuleCat.{max u v} R ≌ ModuleCat.{max u' v'} S) : R ≃+* S :=
```
Comment (jjaassoonn) [inline Mathlib/Algebra/Category/Ring/Center.lean:86]: The universes `v` and `v'` are here is to make sure this definition is compatible with `IsMoritaEquivalent` in #20640

**Comment by jjaassoonn** [comment]
Maybe the location of this file is wrong, after all it did not use any `RingCat`

File: Mathlib/Algebra/Category/Ring/Center.lean [hunk 2]
```diff
@@ -0,0 +1,137 @@
+/-
+Copyright (c) 2025 Jujian Zhang. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jujian Zhang
+-/
+import Mathlib.CategoryTheory.Endomorphism
+import Mathlib.CategoryTheory.Adjunction.Limits
+import Mathlib.Algebra.Ring.Subring.Basic
+import Mathlib.Algebra.Category.ModuleCat.Limits
```
Comment (qawbecrdtey) [inline Mathlib/Algebra/Category/Ring/Center.lean:9]: Two imports `Mathlib.Algebra.Category.ModuleCat.Limits` and `Mathlib.CategoryTheory.Adjunction.Limits` are enough.

**Review by qawbecrdtey — CHANGES_REQUESTED** [review]

File: Mathlib/Algebra/Category/Ring/Center.lean (hunk 2 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Category/Ring/Center.lean]: well spotted. Thanks!

File: Mathlib/Algebra/Category/Ring/Center.lean [hunk 3]
```diff
@@ -0,0 +1,135 @@
...
+equivalent, then `R` and `S` are isomorphic as rings.
+-/
+def RingEquiv.ofModuleCatEquiv {R : Type u} {S : Type u'} [CommRing R] [CommRing S]
+    (e : ModuleCat.{max u v} R ≌ ModuleCat.{max u' v'} S) : R ≃+* S :=
+  letI : e.functor.Additive := Functor.additive_of_preserves_binary_products e.functor
+  let i₁ : R ≃+* (⊤ : Subring R) := Subring.topEquiv.symm
+  let i₂ : (⊤ : Subring R) ≃+* Subring.center R := Subring.center_eq_top R ▸ .refl _
+  let i₄ : Subring.center S ≃+* (⊤ : Subring S) := Subring.center_eq_top S ▸ .refl _
+  let i₅ : (⊤ : Subring S) ≃+* S := Subring.topEquiv
+  let i : End (𝟭 (ModuleCat.{max u v} R)) ≃+* End (𝟭 (ModuleCat.{max u' v'} S)) :=
```
Comment (alreadydone) [inline Mathlib/Algebra/Category/Ring/Center.lean:89]: Can you extract this? `≃*`  should be more generally true for any equivalence of categories, and `+` needs an additive equivalence probably?

File: Mathlib/Algebra/Category/Ring/Center.lean [hunk 4]
```diff
@@ -0,0 +1,135 @@
...
+          map_smul' r m := by simp [← mul_smul, Subring.mem_center_iff.1 x.2 r] } }
+  map_add' x y := by
+    apply NatTrans.ext
+    ext M (m : M)
+    exact add_smul x.1 y.1 m
+  map_mul' x y := by
+    apply NatTrans.ext
+    ext M (m : M)
+    exact mul_smul x.1 y.1 m
+  invFun f := ⟨f.app (.of R <| ULift R) |>.hom (1 : ULift R) |>.down, by
```
Comment (alreadydone) [inline Mathlib/Algebra/Category/Ring/Center.lean:49]: Can you use [Module.moduleEndSelf](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/LinearMap/End.html#Module.moduleEndSelf)? Then this is basically Z(Module.End R R) = Z(R^mop) = Z(R).

File: Mathlib/Algebra/Category/Ring/Center.lean [hunk 5]
```diff
@@ -0,0 +1,135 @@
...
+variable (R : Type u) [Ring R]
+
+open CategoryTheory
+
+/--
+For any ring `R`, the center of `R` is isomorphic to `End (𝟭 (ModuleCat R))`, the endomorphism ring
+of the identity functor on the category of `R`-modules.
+-/
+@[simps]
+def Subring.centerEquivEndIdFunctor : Subring.center R ≃+* End (𝟭 (ModuleCat.{max v u} R)) where
```
Comment (alreadydone) [inline Mathlib/Algebra/Category/Ring/Center.lean:35]: Can you use `Small` rather than `max v u`? Same below.

Comment (jjaassoonn) [reply Mathlib/Algebra/Category/Ring/Center.lean]: done, thanks

File: Mathlib/Algebra/Category/Ring/Center.lean (hunk 3 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Category/Ring/Center.lean]: This has been factored out

File: Mathlib/Algebra/Category/Ring/Center.lean (hunk 4 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Category/Ring/Center.lean]: I am not sure I follow. Is the idea that constructing a ring isomorphism between `Z(Module.End R R)` and `CategoryTheory.End (𝟭 (ModuleCat R))` is easier?

File: Mathlib/CategoryTheory/Endomorphism.lean [hunk 6]
```diff
@@ -197,4 +197,88 @@ end FullyFaithful
...
+||             ||
+C' ==== g ====> D'
+```
+commutes where `e` and `e'` are equivalence of categories.
+
+Then we have an isomorphism of endomorphism monoids `End f ≃* End g'` and
+-/
+@[simps]
+def endMonoidEquiv
+    (sq₀ : f.comp e'.functor ≅ e.functor.comp g) : End f ≃* End g :=
```
Comment (alreadydone) [inline Mathlib/CategoryTheory/Endomorphism.lean:225]: Apparently this can be a combination of [CategoryTheory.Functor.FullyFaithful.mulEquivEnd](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Endomorphism.html#CategoryTheory.Functor.FullyFaithful.mulEquivEnd), [CategoryTheory.Equivalence.congrLeft/Right](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Equivalence.html#CategoryTheory.Equivalence.congrRight) and [CategoryTheory.Iso.conj](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Conj.html#CategoryTheory.Iso.conj).

File: Mathlib/Algebra/Category/Ring/Center.lean (hunk 4 above)
Comment (alreadydone) [reply Mathlib/Algebra/Category/Ring/Center.lean]: I've worked it out in [this branch](https://github.com/leanprover-community/mathlib4/commit/5971b5d998673c2fb656cf6ecf0e6a3590e871c7)

File: Mathlib/CategoryTheory/Preadditive/AdditiveFunctor.lean [hunk 7]
```diff
@@ -318,4 +320,45 @@ end Exact
...
+C' ==== g ====> D'
+```
+commutes where `e` and `e'` are additive equivalence of categories.
+
+Then we have an isomorphism of endomorphism rings `End f ≃+* End g'` and
+-/
+noncomputable def endRingEquiv
+    (sq₀ : e.congrLeft.functor.obj f ≅ e'.congrRight.inverse.obj g) : End f ≃+* End g where
+  __ := endMonoidEquiv sq₀
+  map_add' α β := by
```
Comment (alreadydone) [inline Mathlib/CategoryTheory/Preadditive/AdditiveFunctor.lean:349]: [stacks#0DLP](https://stacks.math.columbia.edu/tag/0DLP) says that a functor between preadditive categories [with binary biproducts](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Limits/Shapes/Biproducts.html#CategoryTheory.Limits.HasBinaryBiproducts) that preserves either binary coproducts or binary products ([`Limits.PreservesLimitsOfShape (Discrete Limits.WalkingPair)`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/CategoryTheory/Closed/Ideal.html#CategoryTheory.preservesBinaryProducts_of_exponentialIdeal)) (in particular if it's an equivalence) is automatically additive. Can you refactor the proof through that? That would also enable us to remove the additivity condition from the definition of Morita equivalence.

File: Mathlib/CategoryTheory/Preadditive/AdditiveFunctor.lean [hunk 8]
```diff
@@ -347,12 +348,14 @@ noncomputable def endRingEquiv
     (sq₀ : e.congrLeft.functor.obj f ≅ e'.congrRight.inverse.obj g) : End f ≃+* End g where
   __ := endMonoidEquiv sq₀
   map_add' α β := by
+    haveI : e.functor.Additive := e.functor.additive_of_preserves_binary_products
+    haveI : e'.functor.Additive := e'.functor.additive_of_preserves_binary_products
```
Comment (alreadydone) [inline Mathlib/CategoryTheory/Preadditive/AdditiveFunctor.lean:352]: It's nice that Lean already knows `additive_of_preserves_binary_products`; however I think it's better to keep the original `Additive` assumptions since they are more general. It turns out we only need that `e'` is additive, see [my branch](https://github.com/leanprover-community/mathlib4/commit/5d78a65d1cfbdbf1e53849feb395930e59ca58e1).
I've realized [my comment](https://github.com/leanprover-community/mathlib4/pull/20652/files#r1937614282) was misplaced and doesn't really belong to this PR.

**Comment by alreadydone** [comment]
Thanks 🎉 
maintainer merge

File: Mathlib/CategoryTheory/Conj.lean [hunk 9]
```diff
@@ -118,4 +106,34 @@ theorem map_conjAut (F : C ⥤ D) {X Y : C} (α : X ≅ Y) (f : Aut X) :
...
+
+/--
+Suppose we have categories `C, C', D, D'` such that the diagram of functors
+```
+C ===== f =====> D
+||e            ||e'
+||             ||
+C' ==== g ====> D'
+```
+commutes where `e` and `e'` are equivalence of categories.
```
Comment (kbuzzard) [inline Mathlib/CategoryTheory/Conj.lean:128]: It doesn't really make sense to say a diagram of functors commutes, because a category is only defined up to equivalence. Maybe "commutes up to natural isomorphism" or something?

File: Mathlib/Algebra/Category/Ring/Center.lean [hunk 10]
```diff
@@ -0,0 +1,80 @@
...
+        ModuleCat.ofHom <| LinearMap.toSpanSingleton R M m ∘ₗ (linearEquivShrink R R).symm).hom
+      (equivShrink R 1)).symm
+  map_mul' x y := by
+    apply NatTrans.ext
+    ext M (m : M)
+    exact mul_smul x.1 y.1 m
+  map_add' x y := by
+    apply NatTrans.ext
+    ext M (m : M)
+    exact add_smul x.1 y.1 m
```
Comment (jcommelin) [inline Mathlib/Algebra/Category/Ring/Center.lean:63]:
```suggestion
  toFun r := { app M := r • 𝟙 M }
  invFun f := centerToMulOpposite.symm <| centerCongr
    ((ModuleCat.of R (Shrink.{v} R)).endRingEquiv.trans
      ((Module.moduleEndSelf R).trans (linearEquivShrink R R).conjRingEquiv).symm)
    ⟨f.app _, mem_center_iff.mpr fun g ↦ (f.naturality _).symm⟩
  left_inv r := Subtype.ext <| show (linearEquivShrink ..).symm (r.1 • _) = _ by simp
  right_inv f := by
    apply NatTrans.ext
    ext M (m : M)
    simpa [linearEquivShrink, Equiv.linearEquiv] using
      congr($(f.naturality (X := .of R <| Shrink.{v} R) (Y := .of R M) <|
        ModuleCat.ofHom <| LinearMap.toSpanSingleton R M m ∘ₗ (linearEquivShrink R R).symm).hom
      (equivShrink R 1)).symm
  map_mul' x y := by
    apply NatTrans.ext
    ext M (m : M)
    simpa using mul_smul x.1 y.1 m
  map_add' x y := by
    apply NatTrans.ext
    ext M (m : M)
    simpa using add_smul x.1 y.1 m
```

File: Mathlib/Algebra/Category/Ring/Center.lean [hunk 11]
```diff
@@ -0,0 +1,80 @@
...
+
+-/
+
+universe v v'
+
+variable (R : Type*) [Ring R]
+
+open CategoryTheory
+
+/--
```
Comment (jcommelin) [inline Mathlib/Algebra/Category/Ring/Center.lean:31]: Could you please add the equivalence of linear categories between `ModuleCat.{v} R` and `ModuleCat.{v} (Shrink.{v} R)`?
Then you can use that together with your `Equivalence.endRingEquiv` that you add in the other file to golf the ring isomorphism below.

File: Mathlib/CategoryTheory/Conj.lean (hunk 9 above)
Comment (jjaassoonn) [reply Mathlib/CategoryTheory/Conj.lean]: done

File: Mathlib/Algebra/Category/Ring/Center.lean (hunk 11 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Category/Ring/Center.lean:38]: I think I have done what you want, can you check if this is what you mean please?

File: Mathlib/Algebra/Category/Ring/Center.lean [hunk 12]
```diff
@@ -0,0 +1,93 @@
...
+
+- `Subring.centerEquivEndIdFunctor`: the center of a ring `R` is isomorphic to `End (𝟭 R-Mod)`.
+- `RingEquiv.ofModuleCatEquiv`: if two commutative rings have equivalent module categories, they are
+  isomorphic as rings.
+
+-/
+
+universe v v'
+
+variable (R : Type*) [Ring R]
```
Comment (jcommelin) [inline Mathlib/Algebra/Category/Ring/Center.lean:28]:
```suggestion
universe u v v'

variable (R : Type u) [Ring R]
```

File: Mathlib/Algebra/Category/Ring/Center.lean [hunk 13]
```diff
@@ -0,0 +1,93 @@
...
+
+open CategoryTheory
+
+noncomputable abbrev test [Small.{v} R] : ModuleCat.{v} R ≌ ModuleCat.{v} (Shrink.{v} R) :=
+  ModuleCat.restrictScalarsEquivalenceOfRingEquiv (Shrink.ringEquiv R)
+
+variable (M : ModuleCat R)
+
+set_option synthInstance.maxHeartbeats 100000 in
```
Comment (jcommelin) [inline Mathlib/Algebra/Category/Ring/Center.lean:37]:
```suggestion
```

File: Mathlib/Algebra/Category/Ring/Center.lean [hunk 14]
```diff
@@ -0,0 +1,93 @@
...
+    ((ModuleCat.of _ (Shrink.{v} R)).endRingEquiv.trans
+      ((Module.moduleEndSelf (Shrink.{v} R))).symm)
+    ⟨f.app _, mem_center_iff.mpr fun g ↦ (f.naturality _).symm⟩
+  left_inv r := Subtype.ext <| show r.1 • (1 : Shrink R) = r.1 by simp
+  right_inv f := by
+    apply NatTrans.ext
+    ext M (m : M)
+    simpa using
+      congr($(f.naturality (X := .of _ (Shrink.{v} R)) (Y := .of _ M) <|
+        ModuleCat.ofHom <| LinearMap.toSpanSingleton _ M m).hom (1 : Shrink.{v} R)).symm
```
Comment (jcommelin) [inline Mathlib/Algebra/Category/Ring/Center.lean:57]:
```suggestion
noncomputable def Subring.centerEquivEndIdFunctorAux :
    center R ≃+* End (𝟭 (ModuleCat.{u} R)) where
  toFun r := { app M := r • 𝟙 M }
  invFun f := centerToMulOpposite.symm <| centerCongr
    ((ModuleCat.of R R).endRingEquiv.trans ((Module.moduleEndSelf R)).symm)
    ⟨f.app (.of R R), mem_center_iff.mpr fun g ↦ (f.naturality _).symm⟩
  left_inv r := Subtype.ext <| show r.1 • (1 : R) = r.1 by simp
  right_inv f := by
    apply NatTrans.ext
    ext M (m : M)
    simpa [Subring.smul_def, ModuleCat.endRingEquiv] using
      congr($(f.naturality (ModuleCat.ofHom <| LinearMap.toSpanSingleton R M m)) (1 : R)).symm
```

File: Mathlib/Algebra/Category/Ring/Center.lean [hunk 15]
```diff
@@ -0,0 +1,93 @@
...
+  map_mul' x y := by
+    apply NatTrans.ext
+    ext M (m : M)
+    simpa using mul_smul x.1 y.1 m
+  map_add' x y := by
+    apply NatTrans.ext
+    ext M (m : M)
+    simpa using add_smul x.1 y.1 m
```
Comment (jcommelin) [inline Mathlib/Algebra/Category/Ring/Center.lean:65]: These proofs are hiding some heavy rfls, as witnessed by the `erw`s below
```suggestion
    simp
    erw [End.mul_def] -- why is this simp lemma not firing?
    simp
    exact mul_smul x y m
  map_add' x y := by
    apply NatTrans.ext
    ext M (m : M)
    simp
    erw [NatTrans.app_add] -- why is this simp lemma not firing?
    simp
    exact add_smul x y m
```

File: Mathlib/Algebra/Category/Ring/Center.lean [hunk 16]
```diff
@@ -0,0 +1,93 @@
...
+
+/--
+For any ring `R`, the center of `R` is isomorphic to `End (𝟭 (ModuleCat R))`, the endomorphism ring
+of the identity functor on the category of `R`-modules.
+-/
+noncomputable def Subring.centerEquivEndIdFunctor [Small.{v} R] :
+    center R ≃+* End (𝟭 (ModuleCat.{v} R)) :=
+  (centerCongr (Shrink.ringEquiv R).symm).trans <| Subring.centerEquivEndIdFunctorAux R |>.trans
```
Comment (jcommelin) [inline Mathlib/Algebra/Category/Ring/Center.lean:73]:
```suggestion
  (centerCongr (Shrink.ringEquiv R).symm).trans <| Subring.centerEquivEndIdFunctorAux (Shrink.{v} R)
  |>.trans
```

File: Mathlib/Algebra/Category/Ring/Center.lean (hunk 13 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Category/Ring/Center.lean]: the `synthInstance.maxHeartbeats` is needed here, my suspections is that for `ModuleCat.Hom.instModule` to fire, we need `SMulCommClass R (center R) M`, which lean is struggling to find

File: Mathlib/Algebra/Category/Ring/Center.lean (hunk 15 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Category/Ring/Center.lean]:
```
erw [NatTrans.app_add] -- why is this simp lemma not firing?
```
Strangely, this does not require `erw`, `rw` actually works, but `simp` does not fire nonetheless

Comment (alreadydone) [reply Mathlib/Algebra/Category/Ring/Center.lean]: Probably [this issue](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/.60simp.60.20is.20sometimes.20less.20powerful.20than.20.60rw.60/near/497521128).

**Comment by jjaassoonn** [comment]
Given #20640, I wonder if I should upgrade everything to algebra

**Comment by kbuzzard** [comment]
@jjaassoonn can you clarify if your previous comment means "I am going to upgrade everything to algebras" or "I am happy to continue with this PR as it is"?

**Comment by jjaassoonn** [comment]
> @jjaassoonn can you clarify if your previous comment means "I am going to upgrade everything to algebras" or "I am happy to continue with this PR as it is"?

I think eventually everything needs to be an algebra ismorphism in the context of Morita equivalence. But I have decided to build a follow-up PR

File: Mathlib/Algebra/Category/Ring/Center.lean (hunk 15 above)
Comment (jjaassoonn) [reply Mathlib/Algebra/Category/Ring/Center.lean]: changed

File: Mathlib/Algebra/Category/Ring/Center.lean [hunk 17]
```diff
@@ -0,0 +1,109 @@
...
+
+/--
+For any ring `R`, the center of `R` is isomorphic to `End (𝟭 (ModuleCat R))`, the endomorphism ring
+of the identity functor on the category of `R`-modules.
+
+Note: this is an auxilary construction, please use `Subring.centerEquivEndIdFunctor` instead.
+-/
+@[simps]
+noncomputable def Subring.centerEquivEndIdFunctorAux :
+    center R ≃+* End (𝟭 (ModuleCat.{u} R)) where
```
Comment (alreadydone) [inline Mathlib/Algebra/Category/Ring/Center.lean:42]: #23777 introduces a name for the RHS.

File: Mathlib/Algebra/Category/Ring/Center.lean [hunk 18]
```diff
@@ -0,0 +1,109 @@
+/-
+Copyright (c) 2025 Jujian Zhang. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jujian Zhang, Junyan Xu
+-/
+import Mathlib.CategoryTheory.Adjunction.Limits
+import Mathlib.Algebra.Category.ModuleCat.Abelian
+import Mathlib.Algebra.Category.ModuleCat.ChangeOfRings
+import Mathlib.Algebra.Small.Ring
+
```
Comment (qawbecrdtey) [inline Mathlib/Algebra/Category/Ring/Center.lean:10]:
```suggestion
import Mathlib.Algebra.Category.ModuleCat.Abelian
import Mathlib.Algebra.Category.ModuleCat.ChangeOfRings
import Mathlib.Algebra.Small.Ring
import Mathlib.CategoryTheory.Adjunction.Limits
```

File: Mathlib/Algebra/Category/Ring/Center.lean [hunk 19]
```diff
@@ -0,0 +1,109 @@
...
+## Main results
+
+- `Subring.centerEquivEndIdFunctor`: the center of a ring `R` is isomorphic to `End (𝟭 R-Mod)`.
+- `RingEquiv.ofModuleCatEquiv`: if two commutative rings have equivalent module categories, they are
+  isomorphic as rings.
+
+-/
+
+universe u u' v v'
+
```
Comment (qawbecrdtey) [inline Mathlib/Algebra/Category/Ring/Center.lean:27]: How about wrapping with `noncomputable section`?

File: Mathlib/CategoryTheory/Preadditive/AdditiveFunctor.lean [hunk 20]
```diff
@@ -7,6 +7,8 @@ import Mathlib.CategoryTheory.Limits.ExactFunctor
 import Mathlib.CategoryTheory.Limits.Preserves.Finite
 import Mathlib.CategoryTheory.Preadditive.Biproducts
 import Mathlib.CategoryTheory.Preadditive.FunctorCategory
+import Mathlib.CategoryTheory.Conj
+import Mathlib.Algebra.Ring.Equiv
```
Comment (qawbecrdtey) [inline Mathlib/CategoryTheory/Preadditive/AdditiveFunctor.lean:11]: Sort imports.

**Review by qawbecrdtey — COMMENTED** [review]
Small suggestions.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
